US07468371B2
To a slurry of m-toluidine (15.5 mL, 140 mmol) in a 2N aqueous solution of sodium hydroxide (75 mL) was added dropwise a solution of bromoacetyl chloride (11.6 mL, 140 mmol) in dichloromethane (50 mL) and the reaction mixture was stirred at room temperature for about 30 min. The layers were separated and the organic layer was washed with 1N aqueous hydrochloric acid, dried (MgSO4), filtered and concentrated under vacuum. The residue was triturated twice from dichloromethane/hexane (1:4) to provide 2-bromo-N-m-tolyl-acetamide. MS (DCI-NH3): m/z 245, 247 (M+NH3)+.

reactant | m-toluidine | 140 mmol, 15.5 mL | NC1=CC(=CC=C1)C | C7H9N
reactant | sodium hydroxide | 75 mL | [OH-].[Na+]
reactant | bromoacetyl chloride | 140 mmol, 11.6 mL | BrCC(=O)Cl | C2H2BrClO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-bromo-N-m-tolyl-acetamide | BrCC(=O)NC=1C=C(C=CC1)C | C9H10BrNO
